US07217733B2
N-Boc-L-proline 4-nitrooxybutyl ester (1.24 g, 3.7 mmol) was dissolved in CH2Cl2 (20 mL) and HCl gas was bubbled into the solution for 2 hours. Then the mixture was concentrated, affording L-proline 4-nitrooxybutyl ester hydrochloride as a clear oil (1.00 g, quantitative).

reactant | N-Boc-L-proline 4-nitrooxybutyl ester | 3.7 mmol, 1.24 g | [N+](=O)([O-])OCCCCOC([C@H]1N(CCC1)C(=O)OC(C)(C)C)=O | C14H24N2O7
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | L-proline 4-nitrooxybutyl ester hydrochloride | Cl.[N+](=O)([O-])OCCCCOC([C@H]1NCCC1)=O | InChI=1S/C9H16N2O5.ClH/c12-9(8-4-3-5-10-8)15-6-1-2-7-16-11(13)14;/h8,10H,1-7H2;1H/t8-;/m0./s1
